US07572785B2
Step D: N-(Cyclohexyl)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxamide
A solution of 5.5 g (16.2 mmol) of 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-1-methyl-imidazole in 70 mL of THF was cooled in a −78° C. bath and 15 mL of 1.6 M n-BuLi was slowly added. After stirring for 1 h, 5.2 mL (40.7 mmol) of cyclohexylisocyanate was added. The cooling bath was removed and the solution was stirred for 3 h. The reaction mixture was poured into a mixture of water/EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layer was washed with brine, dried and concentrated. The residue was purified on a flash column using a gradient of 2-10% EtOAc-hexane. The isolated product was crystallized from EtOAc-hexane (˜1:10) to obtain the title compound as a white solid with a melting point of 165° C.

reactant | 5-(4-chlorophenyl)-4-(2,4-dichlorophenyl)-1-methyl-imidazole | 16.2 mmol, 5.5 g | ClC1=CC=C(C=C1)C1=C(N=CN1C)C1=C(C=C(C=C1)Cl)Cl | C16H11Cl3N2
reactant | n-BuLi | 1.6 M, 15 mL | [Li]CCCC
reactant | cyclohexylisocyanate | 40.7 mmol, 5.2 mL | C1(CCCCC1)N=C=O | C7H11NO
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | N-(Cyclohexyl)-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)-1-methylimidazole-2-carboxamide | C1(CCCCC1)NC(=O)C=1N(C(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl)C | C23H22Cl3N3O
